US08729078B2
1-[3-(6-tert-butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-1H-pyrazole-3-carboxylic acid amide
In a 25 mL container, 1-(3-bromo-2-formylphenyl)-1H-pyrazole-3-carbonitrile (50 mg, 181 μmol, Eq: 1.00), 6-tert-butyl-8-fluorophthalazin-1(2H)-one (79.8 mg, 362 μmol, Eq: 2) and copper (I) iodide (69.0 mg, 362 μmol, Eq: 2.00) were combined with DMSO (2.00 ml) to give a yellow suspension. Sodium bicarbonate (38.0 mg, 453 μmol, Eq: 2.5) was added to it. The mixture was heated in a microwave at 120° C. for 1 hr. The reaction mixture was poured into 25 mL sat NH4Cl and extracted with EtOAc (3×25 mL). The organic layers were dried over MgSO4 and concentrated in vacuo. The organic layer was concentrated and purified through ISCO flash column chromatography using ethyl acetate (containing 5% methanol) in hexanes (5% to 80% linear gradient in 15 minutes, 12 g silica gel) to give the pure desired product which was triturated with ether in hexanes and filtered to obtain 1-(3-(6-tert-butyl-8-fluoro-1-oxophthalazin-2(1H)-yl)-2-formylphenyl)-1H-pyrazole-3-carbonitrile (19 mg, 25%).

reactant | 1-(3-bromo-2-formylphenyl)-1H-pyrazole-3-carbonitrile | 181 μmol, 50 mg | BrC=1C(=C(C=CC1)N1N=C(C=C1)C#N)C=O | C11H6BrN3O
reactant | 6-tert-butyl-8-fluorophthalazin-1(2H)-one | 362 μmol, 79.8 mg | C(C)(C)(C)C=1C=C2C=NNC(C2=C(C1)F)=O | C12H13FN2O
reactant | Sodium bicarbonate | 453 μmol, 38.0 mg | C([O-])(O)=O.[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
catalyst | copper (I) iodide | 362 μmol, 69.0 mg | [Cu]I
solvent | DMSO | 2.00 ml | CS(=O)C | C2H6OS
product | 1-[3-(6-tert-butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-1H-pyrazole-3-carboxylic acid amide | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C=1C(=C(C=CC1)N1N=C(C=C1)C(=O)N)CO | C23H22FN5O3
